US09120819B2
Stage A: Methyl 2-amino-5-({1-[(diphenylmethylene)amino]imidazo[1,5-a]pyridin-3-yl}carbonyl)benzoate
3.83 g (11.75 mmol) of caesium carbonate, 0.73 g (1.18 mmol) of (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl [Binap], 4.93 ml (29.4 mmol) of benzophenoneimine and 0.54 mg (0.59 mmol) of tris(dibenzylideneacetone)dipalladium(0) [Pd2(dba)3] are added to the solution of 2.20 g (5.88 mmol) of methyl 2-amino-5-[(1-bromoimidazo[1,5-a]pyridin-3-yl)carbonyl]benzoate (described in Patent Application WO2006097625) in 35 ml of anhydrous N,N-dimethylformamide under argon, and the mixture is then heated at 110° C. for 3 hours. The reaction medium is then filtered and then diluted with ethyl acetate. The organic phase is washed with water and then with a saturated aqueous solution of sodium chloride. It is dried over sodium sulphate, filtered and concentrated to dryness so as to obtain a red solid. After purification by flash chromatography on silica gel (toluene/ethyl acetate/triethylamine gradient=98/1/1 to 90/9/1), 1.18 g (42%) of an orangey-red powder are obtained.

reactant | caesium carbonate | 11.75 mmol, 3.83 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.18 mmol, 0.73 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | benzophenoneimine | 29.4 mmol, 4.93 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | methyl 2-amino-5-[(1-bromoimidazo[1,5-a]pyridin-3-yl)carbonyl]benzoate | 5.88 mmol, 2.20 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=NC(=C2N1C=CC=C2)Br | C16H12BrN3O3
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.59 mmol, 0.54 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Methyl 2-amino-5-({1-[(diphenylmethylene)amino]imidazo[1,5-a]pyridin-3-yl}carbonyl)benzoate | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=NC(=C2N1C=CC=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C29H22N4O3
